US05998433
b) Synthesis of (E)-N,N-dimethyl-[6-[5-(2-phenylethenyl)thiophene-2-carbonyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
(E)-N,N-Dimethyl-[6-[5-(2-phenylethenyl)thiophene-2-carbonyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.165 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated and washed with diethyl ether to yield the desired product.

reactant | (E)-N,N-Dimethyl-[6-[5-(2-phenylethenyl)thiophene-2-carbonyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.165 g | CN(C)CC1=CC2=C(CN(CC2)C(=O)C=2SC(=CC2)\C=C\C2=CC=CC=C2)O1 | C23H24N2O2S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-N,N-dimethyl-[6-[5-(2-phenylethenyl)thiophene-2-carbonyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(=O)C=2SC(=CC2)\C=C\C2=CC=CC=C2)O1 | InChI=1S/C23H24N2O2S.ClH/c1-24(2)15-19-14-18-12-13-25(16-21(18)27-19)23(26)22-11-10-20(28-22)9-8-17-6-4-3-5-7-17;/h3-11,14H,12-13,15-16H2,1-2H3;1H/b9-8+;
